US06881733B1
A solution of 3.0 gm (11.4 mMol) 6-hydroxymethyl-8-benzyl-8-azaspiro[4,5]decane in 50 mL dichloromethane was cooled to −78° C. and then treated with 2.2 mL (22.8 mMol) dimethylboron bromide dropwise. After stirring at −78° C. for 4 hours, the reaction mixture was treated with 45 mL 1N sodium hydroxide and was allowed to warm to room temperature. The phases were separated and the aqueous phase was extracted well with dichloromethane. The organic phases were combined, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with dichloromethane containing from 0-5% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 1.1 gm (44%) 1-benzyl-3-hydroxymethyl-4-oxopiperidine.

reactant | 6-hydroxymethyl-8-benzyl-8-azaspiro[4,5]decane | 11.4 mMol, 3.0 gm | OCC1C2(CCCC2)CCN(C1)CC1=CC=CC=C1 | C17H25NO
reactant | dimethylboron bromide | 22.8 mMol, 2.2 mL | CB(C)Br | C2H6BBr
reactant | sodium hydroxide | 1N, 45 mL | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-benzyl-3-hydroxymethyl-4-oxopiperidine | 1.1 gm, 44% | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CO | C13H17NO2
